US03998834
A mixture of 4.1 parts of 2-thiopheneethanol, methanesulfonate ester, 3.5 parts of 1-[4-(phenylamino)-4-piperidinyl]-1-propanone, 5.3 parts of sodium carbonate and 120 parts of 4-methyl-2-pentanone is stirred and refluxed for 18 hours. After cooling to room temperature, the reaction mixture is poured onto water and the layers are separated. The organic phase is dried, filtered and evaporated. The oily residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 5% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The solid residue is crystallized from 2,2'-oxybispropane. The product is filtered off and dried, yielding 1-{4-(phenylamino)-1-[2-(2-thienyl)ethyl]-4-piperidinyl}-1-propanone; mp. 127.1° C.

reactant | 2-thiopheneethanol | S1C(=CC=C1)CCO | C6H8OS
reactant | 1-[4-(phenylamino)-4-piperidinyl]-1-propanone | C1(=CC=CC=C1)NC1(CCNCC1)C(CC)=O | C14H20N2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 1-{4-(phenylamino)-1-[2-(2-thienyl)ethyl]-4-piperidinyl}-1-propanone | C1(=CC=CC=C1)NC1(CCN(CC1)CCC=1SC=CC1)C(CC)=O | C20H26N2OS
